US05132319
Step 1: Methyl (3-benzylindol-1-yl)acetate
To a suspension of NaH (50% dispersion in oil, 170 mg, 3.5 mmol) in DMF (15 mL), at r.t. and under an atmosphere of nitrogen, there was added in portions 3-benzylindole (ref: Tetrahedron 23, 3771-83 (1967)) (621 mg, 3 mmol) and the mixture was stirred for 1 hour. There added methyl bromoacetate (765 mg, 5 mmol) and stirring was continued for 1.5 hours. H2O (100 mL) was added and the mixture was extracted twice with Et2O. These extracts were H2O with water, dried over MgSO4 and evaporated to a residue which was chromatographed on silica gel eluting with a 1:5 mixture of EtOAc acetate and hexane to afford the title product as an oil.

reactant | NaH | 3.5 mmol, 170 mg | [H-].[Na+]
reactant | 3-benzylindole | 3 mmol, 621 mg | C(C1=CC=CC=C1)C1=CNC2=CC=CC=C12 | C15H13N
reactant | methyl bromoacetate | 5 mmol, 765 mg | BrCC(=O)OC | C3H5BrO2
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Methyl (3-benzylindol-1-yl)acetate | C(C1=CC=CC=C1)C1=CN(C2=CC=CC=C12)CC(=O)OC | C18H17NO2
